US06927303B2
According to the similar procedure in Synthesis Example 1, by using 4-amino-2-nitrophenol (1.00 g, 6.49 mmole), DMF (30 ml), TEA (0.5 ml), and 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide (1.30 g, 7.78 mmole), 1.00 g (40.0% yield) of 2-nitro-4-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)phenol was obtained as a reddish solid.:

reactant | 4-amino-2-nitrophenol | 6.49 mmole, 1.00 g | NC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | 2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl bromide | 7.78 mmole, 1.30 g | FC1=C(CBr)C(=C(C(=C1F)C(F)(F)F)F)F | C8H2BrF7
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-nitro-4-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)phenol | 1.00 g, 40.0% yield | [N+](=O)([O-])C1=C(C=CC(=C1)NCC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)O | C14H7F7N2O3
